US04945090
300 mg of 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid is heated with 2 ml of aminal ester for 3 hours to 120° C., whereby a solution is produced. After diluting with water, it is extracted with ethyl acetate. The organic phase is dreid, filtered, concentrated and chromatographed over silica gel with acetone:hexane=1:1 as eluant. 130 mg of 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid t-butyl ester with a decomposition point of 150° C. is obtained.

reactant | 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid | 300 mg | O(C1=CC=CC=C1)C1=C2C=3C(=C(N=CC3NC2=CC=C1)C(=O)O)COC | C20H16N2O4
solvent | water | O | H2O
product | 5-phenoxy-4-methoxymethyl-beta-carboline-3-carboxylic acid t-butyl ester | 130 mg | C(C)(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=CC=C1 | C24H24N2O4
